US08461329B2
To methyl 6-fluoro-1oxo-1,2-dihydroisoquinoline-4-carboxylate (756 mg), phosphoryl chloride (5 ml) was added, and the mixture was stirred at 100° C. for one hour. The resulting solution was returned to room temperature, and evaporated under reduced pressure to remove the solvent. To the resulting crude product, saturated sodium bicarbonate water was added, followed by extraction with ethyl acetate. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to remove the solvent to give methyl 1-chloro-6-fluoroisoquinoline-4-carboxylate (792 mg) as a brown solid.

reactant | methyl 6-fluoro-1oxo-1,2-dihydroisoquinoline-4-carboxylate | 756 mg | FC=1C=C2C(=CNC(C2=CC1)=O)C(=O)OC | C11H8FNO3
reactant | phosphoryl chloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl 1-chloro-6-fluoroisoquinoline-4-carboxylate | 792 mg | ClC1=NC=C(C2=CC(=CC=C12)F)C(=O)OC | C11H7ClFNO2
